US05102884
Preparation of N-[4-(5-bromo-2-pyrimidinyloxy)-3methylphenyl]-N'-[2-(dimethylamino)benzoyl]urea (Compound No. 1 as described hereinafter)
A solution of a mixture comprising 3.73 g of 4-(5-bromo-2-pyrimidinyloxy)-3-methylphenyl isocyanate, 2.0 g of 2-(dimethylamino)benzamide and 45 ml of toluene, was reacted under reflux for 4 hours.

reactant | 4-(5-bromo-2-pyrimidinyloxy)-3-methylphenyl isocyanate | 3.73 g | BrC=1C=NC(=NC1)OC1=C(C=C(C=C1)N=C=O)C | C12H8BrN3O2
reactant | 2-(dimethylamino)benzamide | 2.0 g | CN(C1=C(C(=O)N)C=CC=C1)C | C9H12N2O
solvent | toluene | 45 ml | C1(=CC=CC=C1)C | C7H8
product | N-[4-(5-bromo-2-pyrimidinyloxy)-3methylphenyl]-N'-[2-(dimethylamino)benzoyl]urea | BrC=1C=NC(=NC1)OC1=C(C=C(C=C1)NC(=O)NC(C1=C(C=CC=C1)N(C)C)=O)C | C21H20BrN5O3
